US08609653B2
A mixture of 4-bromo-6-fluoro-3-methyl-2-nitrophenol (0.69 g, 2.76 mmol) in methanol (10 mL) was purged with nitrogen, treated with 10% platinum on carbon (0.027 g, 0.014 mmol) and then stirred under hydrogen (50 psi) overnight. The mixture was filtered over Celite (washing with methanol and dichloromethane) and the filtrate was concentrated to afford 2-amino-4-bromo-6-fluoro-3-methylphenol (647 mg) as a light brown solid, which was used directly without further purification. 1H NMR (400 MHz, DMSO-d6) δ=6.68 (d, J=10.0 Hz, 1 H), 2.11 (s, 3 H); LC/MS (m/z) ES+=219.98 (M+1).

reactant | 4-bromo-6-fluoro-3-methyl-2-nitrophenol | 2.76 mmol, 0.69 g | BrC1=C(C(=C(C(=C1)F)O)[N+](=O)[O-])C | C7H5BrFNO3
solvent | methanol | 10 mL | CO | CH4O
catalyst | platinum on carbon | 0.014 mmol, 0.027 g | [Pt] | Pt
product | 2-amino-4-bromo-6-fluoro-3-methylphenol | 647 mg | NC1=C(C(=CC(=C1C)Br)F)O | C7H7BrFNO
